US05994375
To a solution of 4-benzyloxy-3-[(4-(N-methyl-N-(1-ethoxycarbonyl-1-methylethyl)amino)-3,5,6-trifluoropyridin-2-yl)oxy]benzonitrile (2.4 g, 4.5 mmol) in DMSO (50 mL) was added 3-((1-methyl)imidazolin-2-yl)phenol (0.8 g, 4.5 mmol) and cesium carbonate (1.9 g, 5.8 mmol). The resultant mixture was stirred at 35° C. After 13 hours, the mixture was then cooled to ambient temperature and poured into 200 mL of water and 200 mL of ethyl acetate. The aqueous layer was separated and extracted with 100 mL of ethyl acetate. The combined organic extracts were washed with 0.5 M aqueous KOH solution (200 mL) then brine (200 mL), dried over MgSO4, filtered, and concentrated in vacuo to afford 4-benzyloxy-3-[(4-(N-methyl-N-(1-ethoxycarbonyl-1-methylethyl)amino)-6-(3-(1-methylimidazolin-2-yl)phenoxy)-3,5-difluoropyridin-2-yl)oxy]benzonitrile as a solid foam: NMR (CDCl3) 7.4-7.0 (m, 12), 5.0 (s, 2), 4.2 (q, 2), 3.9 (t, 2), 3.5 (t, 2), 3.1 (s, 3), 2.8 (s, 3), 1.6 (s, 6), 1.3 (t, 3) ppm.

reactant | 4-benzyloxy-3-[(4-(N-methyl-N-(1-ethoxycarbonyl-1-methylethyl)amino)-3,5,6-trifluoropyridin-2-yl)oxy]benzonitrile | 4.5 mmol, 2.4 g | C(C1=CC=CC=C1)OC1=C(C=C(C#N)C=C1)OC1=NC(=C(C(=C1F)N(C(C)(C)C(=O)OCC)C)F)F | C26H24F3N3O4
reactant | 3-((1-methyl)imidazolin-2-yl)phenol | 4.5 mmol, 0.8 g | CN1C(=NCC1)C=1C=C(C=CC1)O | C10H12N2O
reactant | cesium carbonate | 5.8 mmol, 1.9 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | 200 mL | O | H2O
solvent | DMSO | 50 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 4-benzyloxy-3-[(4-(N-methyl-N-(1-ethoxycarbonyl-1-methylethyl)amino)-6-(3-(1-methylimidazolin-2-yl)phenoxy)-3,5-difluoropyridin-2-yl)oxy]benzonitrile | C(C1=CC=CC=C1)OC1=C(C=C(C#N)C=C1)OC1=NC(=C(C(=C1F)N(C(C)(C)C(=O)OCC)C)F)OC1=CC(=CC=C1)C=1N(CCN1)C | C36H35F2N5O5
